US06414149B1
Step A: 4-Oxo-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-piperidone monohydrate hydrochloride (9.22 g, 60 mmol) and di-tert-butyl dicarbonate (10.9 g, 50 mmol) in a 1:1 mixture of dichloromethane/saturated aqueous sodium bicarbonate (100 mL) was stirred at room temperature for 15.5 h. The layers were separated and the aqueous layer was extracted with chloroform (3×). The combined organic extracts were washed with 1 N aqueous phosphoric acid (3×), dried over sodium sulfate, filtered, and evaporated to give 10.0 g (100%) of the title compound of Example 101, Step A as a white solid. 1H NMR (CDCl3, 400 MHz) δ3.70 (t, 4H), 2.42 (t, 4H), 1.47 (s, 9H).

reactant | 4-piperidone monohydrate hydrochloride | 60 mmol, 9.22 g | Cl.O.N1CCC(CC1)=O
reactant | di-tert-butyl dicarbonate | 50 mmol, 10.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-Oxo-piperidine-1-carboxylic acid tert-butyl ester | 10.0 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
